US08383644B2
(3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester
(3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester (260 mg), (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride (190 mg), EDC (106 mg), and HOBt (78 mg) were suspended in 2 mL DCM and NMM (0.214 mL) added. The resulting mixture stirred at room temperature for 4 hours and loaded directly onto silica. The residue was purified by silica gel flash chromatography (hexanes to 1:1 hexanes/EtOAc to 1:1 hexanes/EtOAc+1% MeOH) to give 320 mg after drying under vacuum. LCMS: m/z 853.

reactant | (3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester | 260 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)O)OC[C@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C30H29Cl2NO7
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | 190 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)N)=O
reactant | HOBt | 78 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 0.214 mL | CN1CCOCC1 | C5H11NO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EDC | 106 mg
product | (3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C47H47Cl2N3O8
